* C:\Users\ACER\Desktop\BJT\pnp\sim_bjt_transfer.asc
Q1 VEB 0 VEC 0 2N3906
V1 VEB 0 0
V2 0 VEC 5
.model NPN NPN
.model PNP PNP
.lib C:\Users\ACER\Documents\LTspiceXVII\lib\cmp\standard.bjt
.include 2N3906.SP3
.dc V1 0 1 0.01
* pnp
.backanno
.end
