* C:\Users\ACER\Desktop\Caca\sim_bjt_transfer.asc
V1 VEB N001 0
V2 VEB 0 5
Q1 0 N001 VEB 0 2N3906
.model NPN NPN
.model PNP PNP
.lib C:\Users\ACER\Documents\LTspiceXVII\lib\cmp\standard.bjt
.include 2N3906.SP3
.dc V1 0 1 0.01
* Curva de transferencia -Ic vs VEB
.backanno
.end
